** sch_path: /foss/designs/modulo5/lab03/xschem/sar_sine_tb.sch
**.subckt sar_sine_tb
x1 VDD GND Vref VOUTP VOUTN clk rst_n VIN_N dout7 dout6 dout5 dout4 dout3 dout2 dout1 dout0 VIN_P eoc sar_adc_top
Vvdd VDD GND 1.8
Vvref Vref GND {Vref_par}
Vclk clk GND PULSE(0 1.8 0 1n 1n 24n 50n)
Vrst rst_n GND PULSE(0 1.8 100n 1n 1n 100u 200u)
R1 eoc GND 100k m=1
R2 dout0 GND 100k m=1
R3 dout1 GND 100k m=1
R4 dout2 GND 100k m=1
R5 dout3 GND 100k m=1
R6 dout4 GND 100k m=1
R7 dout5 GND 100k m=1
R8 dout6 GND 100k m=1
R9 dout7 GND 100k m=1
Vinp VIN_P GND 0 SIN(0.900 0.120 93750 0 0 0)
Vinn VIN_N GND 0.9
**** begin user architecture code

** opencircuitdesign pdks install
.lib /foss/pdks/sky130A/libs.tech/combined/sky130.lib.spice tt



.param vref_par=0.256

.options savecurrents
.ic v(VOUTP)=0.9
.ic v(VOUTN)=0.9

.control
  save all
  tran 1n 32.5u
  write sar_sine_tb.raw
  wrdata sar_sine.txt v(eoc) v(dout7) v(dout6) v(dout5) v(dout4) v(dout3) v(dout2) v(dout1) v(dout0)
.endc


**** end user architecture code
**.ends

* expanding   symbol:  sar_adc_top.sym # of pins=18
** sym_path: /foss/designs/modulo5/lab03/xschem/sar_adc_top.sym
** sch_path: /foss/designs/modulo5/lab03/xschem/sar_adc_top.sch
.subckt sar_adc_top VDD GND Vref VOUTP VOUTN clk rst_n VIN_P dout7 dout6 dout5 dout4 dout3 dout2 dout1 dout0 VIN_N eoc
*.iopin VDD
*.iopin GND
*.ipin Vref
*.ipin VIN_P
*.ipin VIN_N
*.ipin clk
*.ipin rst_n
*.opin VOUTP
*.opin VOUTN
*.opin dout7
*.opin dout6
*.opin dout5
*.opin dout4
*.opin dout3
*.opin dout2
*.opin dout1
*.opin dout0
*.opin eoc
x1 VDD GND phi_smp_inv_a VOUTP VIN_P phi_a Vref dac_p_a7 dac_p_a6 dac_p_a5 dac_p_a4 dac_p_a3 dac_p_a2 dac_p_a1 dac_p_a0
+ cdac_complete
x2 VDD out_comp_p_a out_comp_n_a VOUTP VOUTN clk_comp GND strongarm
x3 VDD GND phi_smp_inv_a VOUTN VIN_N phi_a Vref dac_n_a7 dac_n_a6 dac_n_a5 dac_n_a4 dac_n_a3 dac_n_a2 dac_n_a1 dac_n_a0
+ cdac_complete
A1 [ out_comp_p_a ] [ out_comp_p_d ] adc1
.model adc1 adc_bridge in_low=0.7 in_high=1.1
A2 [ out_comp_n_a ] [ out_comp_n_d ] adc1
.model adc1 adc_bridge in_low=0.7 in_high=1.1
A3 [ net1 ] [ phi_a ] dac1
.model dac1 dac_bridge out_low=0 out_high=1.8
A4 [ net2 ] [ phi_smp_inv_a ] dac1
.model dac1 dac_bridge out_low=0 out_high=1.8
A5 [ net3 ] [ dac_p_a7 ] dac1
.model dac1 dac_bridge out_low=0 out_high=1.8
A6 [ net4 ] [ dac_p_a6 ] dac1
.model dac1 dac_bridge out_low=0 out_high=1.8
A7 [ net5 ] [ dac_p_a5 ] dac1
.model dac1 dac_bridge out_low=0 out_high=1.8
A8 [ net6 ] [ dac_p_a4 ] dac1
.model dac1 dac_bridge out_low=0 out_high=1.8
A9 [ net7 ] [ dac_p_a3 ] dac1
.model dac1 dac_bridge out_low=0 out_high=1.8
A10 [ net8 ] [ dac_p_a2 ] dac1
.model dac1 dac_bridge out_low=0 out_high=1.8
A11 [ net9 ] [ dac_p_a1 ] dac1
.model dac1 dac_bridge out_low=0 out_high=1.8
A12 [ net10 ] [ dac_p_a0 ] dac1
.model dac1 dac_bridge out_low=0 out_high=1.8
A13 [ net11 ] [ dac_n_a7 ] dac1
.model dac1 dac_bridge out_low=0 out_high=1.8
A14 [ net12 ] [ dac_n_a6 ] dac1
.model dac1 dac_bridge out_low=0 out_high=1.8
A15 [ net13 ] [ dac_n_a5 ] dac1
.model dac1 dac_bridge out_low=0 out_high=1.8
A16 [ net14 ] [ dac_n_a4 ] dac1
.model dac1 dac_bridge out_low=0 out_high=1.8
A17 [ net15 ] [ dac_n_a3 ] dac1
.model dac1 dac_bridge out_low=0 out_high=1.8
A18 [ net16 ] [ dac_n_a2 ] dac1
.model dac1 dac_bridge out_low=0 out_high=1.8
A19 [ net17 ] [ dac_n_a1 ] dac1
.model dac1 dac_bridge out_low=0 out_high=1.8
A20 [ net18 ] [ dac_n_a0 ] dac1
.model dac1 dac_bridge out_low=0 out_high=1.8
A21 [ rst_n ] [ rst_d ] adc1
.model adc1 adc_bridge in_low=0.7 in_high=1.1
A22 [ clk ] [ clk_d ] adc1
.model adc1 adc_bridge in_low=0.7 in_high=1.1
A23 [ net19 ] [ dout7 ] dac1
.model dac1 dac_bridge out_low=0 out_high=1.8
A24 [ net20 ] [ dout6 ] dac1
.model dac1 dac_bridge out_low=0 out_high=1.8
A25 [ net21 ] [ dout5 ] dac1
.model dac1 dac_bridge out_low=0 out_high=1.8
A26 [ net22 ] [ dout4 ] dac1
.model dac1 dac_bridge out_low=0 out_high=1.8
A27 [ net23 ] [ dout3 ] dac1
.model dac1 dac_bridge out_low=0 out_high=1.8
A28 [ net24 ] [ dout2 ] dac1
.model dac1 dac_bridge out_low=0 out_high=1.8
A29 [ net25 ] [ dout1 ] dac1
.model dac1 dac_bridge out_low=0 out_high=1.8
A30 [ net26 ] [ dout0 ] dac1
.model dac1 dac_bridge out_low=0 out_high=1.8
A31 [ net27 ] [ eoc ] dac1
.model dac1 dac_bridge out_low=0 out_high=1.8
A32 [ net28 ] [ clk_comp ] dac1
.model dac1 dac_bridge out_low=0 out_high=1.8
adut [ clk_d rst_d out_comp_p_d out_comp_n_d ] [ net1 net2 net28 net3 net4 net5 net6 net7 net8 net9 net10 net11 net12 net13 net14
+ net15 net16 net17 net18 net19 net20 net21 net22 net23 net24 net25 net26 net27 ] dut
.model dut d_cosim simulation=./sar_controller_behav.so
.ends


* expanding   symbol:  cdac_complete.sym # of pins=15
** sym_path: /foss/designs/modulo5/lab03/xschem/cdac_complete.sym
** sch_path: /foss/designs/modulo5/lab03/xschem/cdac_complete.sch
.subckt cdac_complete VDD GND SMPL_not Vout Vin SMPL Vref ctrl7 ctrl6 ctrl5 ctrl4 ctrl3 ctrl2 ctrl1 ctrl0
*.ipin VDD
*.ipin GND
*.ipin Vref
*.ipin Vin
*.opin Vout
*.ipin SMPL
*.ipin SMPL_not
*.ipin ctrl7
*.ipin ctrl6
*.ipin ctrl5
*.ipin ctrl4
*.ipin ctrl3
*.ipin ctrl2
*.ipin ctrl1
*.ipin ctrl0
x1 Vout Vref net5 net6 net3 net4 net7 net2 net1 net8 cdac
x2 net8 net3 net6 net5 net1 net4 net7 net2 VDD ctrl5 ctrl6 ctrl7 ctrl1 ctrl4 ctrl2 ctrl3 ctrl0 Vref GND switch_bank
x3 Vin GND SMPL_not SMPL VDD Vout passgate
.ends


* expanding   symbol:  strongarm.sym # of pins=7
** sym_path: /foss/designs/modulo5/lab03/xschem/strongarm.sym
** sch_path: /foss/designs/modulo5/lab03/xschem/strongarm.sch
.subckt strongarm VDD out_p out_n vin_p vin_n clk GND
*.ipin vin_p
*.ipin vin_n
*.ipin clk
*.opin out_n
*.opin out_p
*.iopin VDD
*.iopin GND
XM1 sp vin_p tail GND sky130_fd_pr__nfet_01v8 L=0.25 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0 sd=0
+ mult=1 m=1
XM2 sn vin_n tail GND sky130_fd_pr__nfet_01v8 L=0.25 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0 sd=0
+ mult=1 m=1
XM3 out_p out_n sp GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0
+ mult=1 m=1
XM4 out_n out_p sn GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0
+ mult=1 m=1
XM5 tail clk GND GND sky130_fd_pr__nfet_01v8 L=0.5 W=8 nf=1 ad=2.32 as=2.32 pd=16.58 ps=16.58 nrd=0.03625 nrs=0.03625 sa=0 sb=0
+ sd=0 mult=1 m=1
XM6 out_p clk VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=3 nf=1 ad=0.87 as=0.87 pd=6.58 ps=6.58 nrd=0.0966666666666667
+ nrs=0.0966666666666667 sa=0 sb=0 sd=0 mult=1 m=1
XM7 out_n clk VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=3 nf=1 ad=0.87 as=0.87 pd=6.58 ps=6.58 nrd=0.0966666666666667
+ nrs=0.0966666666666667 sa=0 sb=0 sd=0 mult=1 m=1
XM8 out_n out_p VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0 sd=0
+ mult=1 m=1
XM9 out_p out_n VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0 sd=0
+ mult=1 m=1
XM10 sn clk VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=3 nf=1 ad=0.87 as=0.87 pd=6.58 ps=6.58 nrd=0.0966666666666667
+ nrs=0.0966666666666667 sa=0 sb=0 sd=0 mult=1 m=1
XM11 sp clk VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=3 nf=1 ad=0.87 as=0.87 pd=6.58 ps=6.58 nrd=0.0966666666666667
+ nrs=0.0966666666666667 sa=0 sb=0 sd=0 mult=1 m=1
.ends


* expanding   symbol:  cdac.sym # of pins=10
** sym_path: /foss/designs/modulo5/lab03/xschem/cdac.sym
** sch_path: /foss/designs/modulo5/lab03/xschem/cdac.sch
.subckt cdac VOUTP Vref BP3 BP2 BP5 BP4 BP1 BP6 BP7 BP0
*.ipin Vref
*.opin VOUTP
*.ipin BP0
*.ipin BP1
*.ipin BP2
*.ipin BP3
*.ipin BP4
*.ipin BP5
*.ipin BP6
*.ipin BP7
XC1 Vref VOUTP sky130_fd_pr__cap_mim_m3_1 W=5 L=5 MF=1 m=1
XC2 BP0 VOUTP sky130_fd_pr__cap_mim_m3_1 W=5 L=5 MF=1 m=1
XC3 BP1 VOUTP sky130_fd_pr__cap_mim_m3_1 W=5 L=5 MF=2 m=2
XC4 BP2 VOUTP sky130_fd_pr__cap_mim_m3_1 W=5 L=5 MF=4 m=4
XC5 BP3 VOUTP sky130_fd_pr__cap_mim_m3_1 W=5 L=5 MF=8 m=8
XC6 BP4 VOUTP sky130_fd_pr__cap_mim_m3_1 W=5 L=5 MF=16 m=16
XC7 BP5 VOUTP sky130_fd_pr__cap_mim_m3_1 W=5 L=5 MF=32 m=32
XC8 BP6 VOUTP sky130_fd_pr__cap_mim_m3_1 W=5 L=5 MF=64 m=64
XC9 BP7 VOUTP sky130_fd_pr__cap_mim_m3_1 W=5 L=5 MF=128 m=128
.ends


* expanding   symbol:  switch_bank.sym # of pins=19
** sym_path: /foss/designs/modulo5/lab03/xschem/switch_bank.sym
** sch_path: /foss/designs/modulo5/lab03/xschem/switch_bank.sch
.subckt switch_bank BP0 BP5 BP2 BP3 BP7 BP4 BP1 BP6 VDD ctrl5 ctrl6 ctrl7 ctrl1 ctrl4 ctrl2 ctrl3 ctrl0 Vref GND
*.ipin Vref
*.ipin GND
*.iopin BP7
*.iopin BP6
*.iopin BP5
*.iopin BP4
*.iopin BP3
*.iopin BP2
*.iopin BP1
*.iopin BP0
*.ipin VDD
*.ipin ctrl7
*.ipin ctrl6
*.ipin ctrl5
*.ipin ctrl4
*.ipin ctrl3
*.ipin ctrl2
*.ipin ctrl1
*.ipin ctrl0
x1 VDD GND ctrl7 BP7 Vref T_gate
x2 VDD GND ctrl6 BP6 Vref T_gate
x3 VDD GND ctrl5 BP5 Vref T_gate
x4 VDD GND ctrl4 BP4 Vref T_gate
x5 VDD GND ctrl3 BP3 Vref T_gate
x6 VDD GND ctrl2 BP2 Vref T_gate
x7 VDD GND ctrl1 BP1 Vref T_gate
x8 VDD GND ctrl0 BP0 Vref T_gate
.ends


* expanding   symbol:  passgate.sym # of pins=6
** sym_path: /foss/designs/modulo5/lab03/xschem/passgate.sym
** sch_path: /foss/designs/modulo5/lab03/xschem/passgate.sch
.subckt passgate Vin gnd !CTRL CTRL Vdd Vout
*.ipin CTRL
*.ipin !CTRL
*.iopin Vin
*.iopin Vout
*.ipin Vdd
*.ipin gnd
XM3 Vin CTRL Vout gnd sky130_fd_pr__nfet_01v8_lvt L=0.15 W=6 nf=1 ad=1.74 as=1.74 pd=12.58 ps=12.58 nrd=0.0483333333333333
+ nrs=0.0483333333333333 sa=0 sb=0 sd=0 mult=1 m=1
XM1 Vin !CTRL Vout Vdd sky130_fd_pr__pfet_01v8_lvt L=0.35 W=12 nf=1 ad=3.48 as=3.48 pd=24.58 ps=24.58 nrd=0.0241666666666667
+ nrs=0.0241666666666667 sa=0 sb=0 sd=0 mult=1 m=1
.ends


* expanding   symbol:  T_gate.sym # of pins=5
** sym_path: /foss/designs/modulo5/lab03/xschem/T_gate.sym
** sch_path: /foss/designs/modulo5/lab03/xschem/T_gate.sch
.subckt T_gate VDD GND Ctrl Vout Vref
*.ipin Ctrl
*.iopin Vout
*.iopin VDD
*.iopin GND
*.iopin Vref
x1 VDD Ctrl net1 GND inverter
XM1 GND net1 Vout GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0
+ sd=0 mult=1 m=1
XM2 GND Ctrl Vout VDD sky130_fd_pr__pfet_01v8_lvt L=0.35 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0
+ sd=0 mult=1 m=1
XM3 Vref Ctrl Vout GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0
+ sd=0 mult=1 m=1
XM4 Vref net1 Vout VDD sky130_fd_pr__pfet_01v8_lvt L=0.35 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0
+ sd=0 mult=1 m=1
.ends


* expanding   symbol:  inverter.sym # of pins=4
** sym_path: /foss/designs/modulo5/lab03/xschem/inverter.sym
** sch_path: /foss/designs/modulo5/lab03/xschem/inverter.sch
.subckt inverter VDD IN OUT GND
*.ipin IN
*.opin OUT
*.iopin VDD
*.iopin GND
XM1 OUT IN GND GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0 sd=0
+ mult=1 m=1
XM2 OUT IN VDD VDD sky130_fd_pr__pfet_01v8_lvt L=0.35 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0
+ sd=0 mult=1 m=1
.ends

.GLOBAL GND
.end
